US08053581B2
Step 2: Preparation of 1-(4-methoxy-phenyl)-4-phenyl-butan-1-one
A procedure similar to step 2 of 5.3.1 was used. 4-Phenylbutyryl chloride prepared in the step 1 and methylphenyl ether were used as starting materials, allowed to react in dichloromethane with AlCl3 as catalyst, stirred at −10° C. to −15° C. for 30 minutes and then at room temperature for 3 hours, a crude product was obtained, purified under a reduced pressure by silica gel column chromatography eluted with a gradient of petroleum ether and ethyl acetate at a ratio of 20:1-10:1 (V:V) to obtain a product as a white crystal in a yield of 57.5%, mp: 60-61 └. 1H-NMR (CDCl3, 400 MHz) δ: 2.07 (2H, quintuple, J=7.56 Hz), 2.72 (2H, t, J=7.56 Hz), 2.93 (2H, t, J=7.56 Hz), 3.86 (3H, s, OCH3), 6.91 (2H, d, J=7.00 Hz, ArH), 7.16˜7.21 (5H, m, ArH), 7.91 (2H, d, J=7.00 Hz, ArH); FAB-MS: 255.2 (M+1, 100), 150.1 (27), 135.1 (22), 91.1 (7).

reactant | 4-Phenylbutyryl chloride | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
reactant | methylphenyl ether | COC1=CC=CC=C1 | C7H8O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
product | 1-(4-methoxy-phenyl)-4-phenyl-butan-1-one | yield of 57.5% | COC1=CC=C(C=C1)C(CCCC1=CC=CC=C1)=O | C17H18O2
